US06569355B1
(1S,3R,6R,10R)-3-(4′-methoxyphenyl)-10-hydroxy-2,4,7-trioxabicyclo[4.4.0]decane (5)
5.0 g (33.8 mmol) of 2 and 8.30 g (45.8 mmol) of p-methoxybenzaldehyde dimethyl acetal were dissolved in 50 ml of anhydrous DMA, and a catalytic amount of 4-toluenesulfonic acid was added until the mixture was acidic. The reaction solution was agitated for about 5 hours in a rotary evaporator at 60-65° C. and a reduced pressure of 30 mbar. The reaction solution was neutralized using triethylamine. 300 ml of ethyl acetate were added, and the mixture was extracted three times with water. The organic phase was dried over Na2SO4, the drying agent was filtered off, and the residue was evaporated under reduced pressure. The crude product was dissolved in a little ethyl acetate, precipitated using n-hexane, filtered off with suction and dried under reduced pressure.

reactant | p-methoxybenzaldehyde dimethyl acetal | 45.8 mmol, 8.30 g | COC(C1=CC=C(C=C1)OC)OC | C10H14O3
reactant | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | DMA | 50 ml | CC(=O)N(C)C | C4H9NO
product | (1S,3R,6R,10R)-3-(4′-methoxyphenyl)-10-hydroxy-2,4,7-trioxabicyclo[4.4.0]decane | COC1=CC=C(C=C1)[C@H]1O[C@H]2[C@@H](CCO[C@@H]2CO1)O | C14H18O5
